US04426386
Example E1. N-n-propyl-3-(3-hydroxyphenyl)piperidine hydrobromide (Method a)
N-Propyl-3-(3-methoxyphenyl)piperidine hydrochloride (7.0 g, 0.026 mol) was suspended in 48% HBr (200 ml). The mixture was refluxed under nitrogen for 3 h. The hydrobromic acid was evaporated and the residue was recrystallized from ethanol/ether, yielding the pure product (6.7 g, 86%) mp. 146°-7.5° C.

reactant | N-Propyl-3-(3-methoxyphenyl)piperidine hydrochloride | 0.026 mol, 7.0 g | Cl.C(CC)N1CC(CCC1)C1=CC(=CC=C1)OC
reactant | HBr | 200 ml | Br | BrH
product | N-n-propyl-3-(3-hydroxyphenyl)piperidine hydrobromide | 6.7 g, 86% | Br.C(CC)N1CC(CCC1)C1=CC(=CC=C1)O | InChI=1S/C14H21NO.BrH/c1-2-8-15-9-4-6-13(11-15)12-5-3-7-14(16)10-12;/h3,5,7,10,13,16H,2,4,6,8-9,11H2,1H3;1H
